US09126939B2
Step c) NaBH(OAc)3 (14.12 g, 66.60 mmol) was added to a solution of ethyl (2R,3S)-2-(4-aminophenyl)-1-(2-fluoro-6-methylbenzoyl)piperidine-3-carboxylate (16 g, 41.65 mmol), and cyclopentanone (10.51 g, 125 mmol) in dry dichloroethane (200 mL) at rt. The reaction mixture was heated to 45° C. for 3 h, cooled to rt, quenched with saturated aqueous NaHCO3 solution, extracted with dichloromethane, dried and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, ethyl acetate/hexanes 15-40%) to afford ethyl (2R,3S)-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methylbenzoyl)piperidine-3-carboxylate as white solid (17 g, 90%). MS: (ES) m/z 453 (M+H+).

reactant | NaBH(OAc)3 | 66.60 mmol, 14.12 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl (2R,3S)-2-(4-aminophenyl)-1-(2-fluoro-6-methylbenzoyl)piperidine-3-carboxylate | 41.65 mmol, 16 g | NC1=CC=C(C=C1)[C@@H]1N(CCC[C@@H]1C(=O)OCC)C(C1=C(C=CC=C1C)F)=O | C22H25FN2O3
reactant | cyclopentanone | 125 mmol, 10.51 g | C1(CCCC1)=O | C5H8O
solvent | dichloroethane | 200 mL | ClC(C)Cl | C2H4Cl2
product | ethyl (2R,3S)-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methylbenzoyl)piperidine-3-carboxylate | 17 g, 90% | C1(CCCC1)NC1=CC=C(C=C1)[C@@H]1N(CCC[C@@H]1C(=O)OCC)C(C1=C(C=CC=C1C)F)=O | C27H33FN2O3
